US07655665B2
A mixture of nitromethane and carbon bisulfide dissolved in alcohols is added dropwise to the solution of potassium hydroxide in alcohol at room temperature. The reaction is carried out at the temperature range of 0-35° C. for 2-10 hours. The solid is filtered out to afford a crude product potassium 2-nitroethene-1,1-bis(thiolate) which is a brown yellow powder.

reactant | carbon bisulfide | [SH-].[C+4].[SH-].[SH-].[SH-]
reactant | potassium hydroxide | [OH-].[K+]
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | potassium 2-nitroethene-1,1-bis(thiolate) | [N+](=O)([O-])C=C([S-])[S-].[K+].[K+] | InChI=1S/C2H3NO2S2.2K/c4-3(5)1-2(6)7;;/h1,6-7H;;/q;2*+1/p-2
